US07767691B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-[4-(phenyloxy)butyl]-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (31.8 mg, 0.114 mmol) and 4-bromobutyl phenyl ether (44.3 mg, 0.193 mmol) in 2 CH3CN/3 CHCl3 (2.5 mL) were reacted to give the desired product (38.7 mg, 67%). EI-MS m/z 428 (M+) Rt (1.98 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.114 mmol, 31.8 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | 4-bromobutyl phenyl ether | 0.193 mmol, 44.3 mg | C1(=CC=CC=C1)OCCCCBr | C10H13BrO
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-[4-(phenyloxy)butyl]-1-azoniabicyclo[2.2.1]heptane bromide | 38.7 mg, 67% | [Br-].OC(C12CC[N+](CC1)(C2)CCCCOC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C29H34NO2.BrH/c31-29(25-12-4-1-5-13-25,26-14-6-2-7-15-26)28-18-21-30(24-28,22-19-28)20-10-11-23-32-27-16-8-3-9-17-27;/h1-9,12-17,31H,10-11,18-24H2;1H/q+1;/p-1
